US07705027B2
Boron trichloride solution (2 ml, 11.0M in dichloromethane) was added slowly to a solution of 3-{2,4-Bis-benzyloxy-5-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-phenyl}acrylic acid tert-butyl ester (50 mg, 0.09 mmol) in dichloromethane (1 ml), at −78° C. (dry ice/acetone) under a nitrogen atmosphere. The resulting solution was stirred for ˜1 hr at −78° C., and for ˜90 mins. at room temperature. The solution was cooled to −78° C. and water (2 ml) added and the mixture was stirred for ˜30 mins at room temperature. Ethyl acetate (30 ml) was added and the solution washed with water (2×5 ml) and saturated aqueous sodium chloride solution (10 ml). The solution was dried over anhydrous magnesium sulphate and concentrated to a pale yellow gum. Trituration with hexane gave a yellow solid, solids were removed by filtration and washed with hexane, dried in vacuo, to give 3-{2,4-dihydroxy-5-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-phenyl}-acrylic acid (10 mg) as yellow powder.

reactant | Boron trichloride | 11.0M, 2 ml | B(Cl)(Cl)Cl | BCl3
reactant | 3-{2,4-Bis-benzyloxy-5-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-phenyl}acrylic acid tert-butyl ester | 0.09 mmol, 50 mg | C(C)(C)(C)OC(C=CC1=C(C=C(C(=C1)C1=C(C(=NO1)C)C1=CC=C(C=C1)OC)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C38H37NO6
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | water | 2 ml | O | H2O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 3-{2,4-dihydroxy-5-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-phenyl}-acrylic acid | 10 mg | OC1=C(C=C(C(=C1)O)C1=C(C(=NO1)C)C1=CC=C(C=C1)OC)C=CC(=O)O | C20H17NO6
